US06686395B2
9.0 g (0.24 mol) of sodium borohydride were added in portions at 5° C. in the course of 10 min to a suspension of 50.0 g (0.22 mol) of diphenic anhydride in 220 ml of DMF. After stirring at RT for 1 h, the reaction mixture was poured onto 220 ml of 6 M hydrochloric acid, diluted with 750 ml of water and stirred for 2 h. The deposited precipitate was filtered off with suction and 35.0 g of 7H-dibenzo[c,e]oxepin-5-one were obtained; m.p. 131° C.

reactant | sodium borohydride | 0.24 mol, 9.0 g | [BH4-].[Na+]
reactant | diphenic anhydride | 0.22 mol, 50.0 g | C=12C(C(=O)OC(C=3C2=CC=CC3)=O)=CC=CC1 | C14H8O3
reactant | hydrochloric acid | 6 M, 220 ml | Cl | ClH
solvent | DMF | 220 ml | CN(C)C=O | C3H7NO
solvent | water | 750 ml | O | H2O
product | 7H-dibenzo[c,e]oxepin-5-one | 35.0 g | C1=CC=CC=2C(OCC3=C(C21)C=CC=C3)=O | C14H10O2
